US07915443B2
(S)-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)amino]carbonyl}phenyl)ethynyl]-N-[methyl(oxido)phenyl--sulfanylidene]nicotinamide
In a manner similar to that described in Example 460 (step 2), (S)-5-bromo-N-[methyl(oxido)phenyl--sulfanylidene]nicotinamide (0.141 g, 0.418 mmol) and N-(1,3-dimethyl-1H-pyrazol-5-yl)-3-ethynylbenzamide (0.1 g, 0.418 mmol) were reacted to give the title compound (0.126 g, 61%).

reactant | (S)-5-bromo-N-[methyl(oxido)phenyl--sulfanylidene]nicotinamide | 0.418 mmol, 0.141 g | BrC=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C13H11BrN2O2S
reactant | N-(1,3-dimethyl-1H-pyrazol-5-yl)-3-ethynylbenzamide | 0.418 mmol, 0.1 g | CN1N=C(C=C1NC(C1=CC(=CC=C1)C#C)=O)C | C14H13N3O
product | (S)-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)amino]carbonyl}phenyl)ethynyl]-N-[methyl(oxido)phenyl--sulfanylidene]nicotinamide | 0.126 g, 61% | CN1N=C(C=C1NC(=O)C=1C=C(C=CC1)C#CC=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1)C | C27H23N5O3S
